US08227622B2
N-[3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-4-yl]acetamide
Acetic anhydride (1.1 mL, 11.6 mmol) was added to a stirred slurry of N-[-3-(4-chlorophenylsulfanyl)-2-methyl-4,5,6,7-tetrahydro-1H-indol-4-ylidene]hydroxylamine (3.0 g, 9.8 mmol) in a mixture of acetic acid (15 mL) and xylene (15 mL) at r.t. in reaction flask 1 (mildly exothermic addition) then the mixture was held with stirring for 45 mins. Meanwhile, reaction flask 2 was charged with acetic acid (7.5 mL), xylene (7.5 mL), acetic anhydride (1.1 mL, 11.6 mmol), and sodium iodide (70 mg, 0.47 mmol) and the mixture was heated to 110° C. with stirring. The contents of reaction flask 1 were transferred to reaction is flask 2 in aliquots over a period of 2 h, whilst maintaining the reaction temperature at 110° C. Reaction flask 1 was rinsed with a mixture of xylene (2 mL) and acetic acid (2 mL) which was transferred to reaction flask 2. Subsequently, the reaction mixture was maintained at 110° C. for a further 3 h then allowed to cool to r.t. and held overnight. The reaction mixture was evaporated to dryness in vacuo to leave a dark brown solid residue. This was purified by chromatography on silica gel, eluting with dichloromethane/ethyl acetate to provide the title compound as an off-white solid; 2.74 g (85%); purity 95.6 area % by HPLC; m/z: 331/333 (MH+); 1H-NMR: 11.84 (1H, s), 9.45 (1H, s), 7.45 (1H, d, J=7.7 Hz), 7.29 (2H, d, J=8.3 Hz), 7.17 (1H, d, J=8.0 Hz), 7.04 (1H, t, J=7.9 Hz), 6.98 (2H, d, J=8.2 Hz), 2.40 (3H, s), 1.84 (3H, s).

reactant | Acetic anhydride | 11.6 mmol, 1.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[-3-(4-chlorophenylsulfanyl)-2-methyl-4,5,6,7-tetrahydro-1H-indol-4-ylidene]hydroxylamine | 9.8 mmol, 3.0 g | ClC1=CC=C(C=C1)SC1=C(NC=2CCCC(C12)=NO)C | C15H15ClN2OS
reactant | acetic anhydride | 11.6 mmol, 1.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium iodide | 0.47 mmol, 70 mg | [I-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 7.5 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetic acid | 7.5 mL | C(C)(=O)O | C2H4O2
product | N-[3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-4-yl]acetamide | ClC1=CC=C(C=C1)SC1=C(NC2=CC=CC(=C12)NC(C)=O)C | C17H15ClN2OS
